US04406841
In the same manner as in the process of the reduction step of Example 1, the reaction was carried out at 40° C. for 2.5 hours by using 10 g of 3-chloro-2,6-difluorobenzonitrile, 60 g of water, 0.25 g of palladium-carbon catalyst and 3 g of sodium hydroxide, and refinement was carried out to obtain 5.63 g of 2,6-difluorobenzonitrile.

reactant | 3-chloro-2,6-difluorobenzonitrile | 10 g | ClC=1C(=C(C#N)C(=CC1)F)F | C7H2ClF2N
reactant | sodium hydroxide | 3 g | [OH-].[Na+]
catalyst | palladium-carbon | 0.25 g | [C].[Pd]
solvent | water | 60 g | O | H2O
product | 2,6-difluorobenzonitrile | 5.63 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
